US04801584
A solution of 2,3-difluoro-6-nitrophenol (500 mg) in methanol (7 ml) was hydrogenated over 5% Pd/C (60 mg) for 6 hours. The reaction mixture was filtered under nitrogen stream and the filtrate was evaporated under reduced pressure to give 414 mg of crude 2-amino-5,6-difluorophenol.

reactant | 2,3-difluoro-6-nitrophenol | 500 mg | FC1=C(C(=CC=C1F)[N+](=O)[O-])O | C6H3F2NO3
solvent | methanol | 7 ml | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | 2-amino-5,6-difluorophenol | 414 mg | NC1=C(C(=C(C=C1)F)F)O | C6H5F2NO
